US07160678B1
16-Mercaptohexadecanoic acid.
Under inert atmosphere 2.0 gr of sodium metal suspension (40% in mineral oil) were slowly added to 100 ml of dry methanol at 0° C. At the end of the addition reaction mixture was stirred for 10 min at RT and 1.75 ml (21.58 mmole) of thioacetic acid were added. After additional 10 min of stirring, 30 ml degassed methanolic solution of 6.1 gr (18.19 mmole) of 16 bromohexadecanoic acid were added. The resulted mixture was refluxed for 15 hrs, after which, allowed to cool to RT and 50 ml of degassed 1.0 M NaOH aqueous solution were injected. Additional refluxing for 3 hrs required for reaction completion. Resulted reaction mixture was cooled with ice bath and poured, with stirring, into a vessel containing 200 ml of ice water. This mixture was titrated to pH=7 by 1.0 M HCl and extracted with 300 ml of ether. The organic layer was separated, washed with 3×150 ml of water, 150 ml of saturated NaCl aqueous solution and dried over sodium sulfate. After removal of ether material was purified by recrystalization from n-hexane, filtering out and drying over high vacuum. 5.1 gr (97% yield) of the desired product was obtained.

reactant | sodium | [Na] | Na
reactant | thioacetic acid | 21.58 mmole, 1.75 ml | C(C)(=S)O | C2H4OS
reactant | bromohexadecanoic acid | BrC(C(=O)O)CCCCCCCCCCCCCC | C16H31BrO2
reactant | NaOH | 1.0 M | [OH-].[Na+]
reactant | HCl | 1.0 M | Cl | ClH
solvent | methanol | 100 ml | CO | CH4O
product | 16-Mercaptohexadecanoic acid | 5.1 gr, 97% yield | SCCCCCCCCCCCCCCCC(=O)O | C16H32O2S
